US07598391B2
1-Cyclohexyl-1-(trans-4-methyl-cyclohexyl)-3-[5-(2-pyrrolidin-1-yl-ethylsulfanyl)-thiazol-2-yl]-urea
Prepared as described in general procedure (H) using 1-cyclohexyl-1-(trans-4-methyl-cyclohexyl)-3-(5-thiocyanato-thiazol-2-yl)-urea, dithioerythritol and N-(2-chloroethyl)pyrrolidine

reactant | 1-cyclohexyl-1-(trans-4-methyl-cyclohexyl)-3-(5-thiocyanato-thiazol-2-yl)-urea | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)SC#N)[C@@H]1CC[C@H](CC1)C | C18H26N4OS2
reactant | dithioerythritol | SC[C@H](O)[C@H](O)CS | C4H10O2S2
reactant | N-(2-chloroethyl)pyrrolidine | ClCCN1CCCC1 | C6H12ClN
product | 1-Cyclohexyl-1-(trans-4-methyl-cyclohexyl)-3-[5-(2-pyrrolidin-1-yl-ethylsulfanyl)-thiazol-2-yl]-urea | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)SCCN1CCCC1)[C@@H]1CC[C@H](CC1)C | C23H38N4OS2
